US06613913B2
7,8-Dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl 4-Methylbenzenesulfonate
[(2R)-7-Amino-8-hydroxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methyl-benzenesulfonate hydrochloride (1.05 g, 2.99 mmole) in trimethyl orthoformate (7 mL) was heated to reflux in the presence of 0.20 g of p-toluenesulfonic acid for 3 hours. The solvent was removed under high vacuum to yield a beige solid. The crude product was recrystallized from ethanol to give 0.81 g (75%) of the (R)-enantiomer of the title compound, MS (ESI) m/z 361 (M+H)+.

reactant | [(2R)-7-Amino-8-hydroxy-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methyl-benzenesulfonate hydrochloride | 2.99 mmole, 1.05 g | Cl.CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)N)O
reactant | p-toluenesulfonic acid | 0.20 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | trimethyl orthoformate | 7 mL | C(OC)(OC)OC | C4H10O3
product | 7,8-Dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl 4-Methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C=CC=3N=COC32)OC1 | C17H15NO6S
